US08357694B2
Step 1: Synthesis of (Z)-N′-(4-((E)-3-((dimethylamino)methylene)-4-oxo-1,2,3,4-tetrahydronaphthalen-1-yl)phenyl)-N,N-dimethylformimidamide.
A mixture of 4-(4-aminophenyl)-3,4-dihydronaphthalen-1(2H)-one (6.0 g, 25.3 mmol) and DMF-DMA (60 mls, 10 vols) was heated at 100 C for 12 h. The reaction mixture was stripped and residue stirred in EtOAc at rt for 1 h. The resulting solids were then filtered and rinsed on the filter with water. After drying, the product was afforded as a yellow solid (8.6 g, 98%). LCMS m/e 348 [M+H].

reactant | 4-(4-aminophenyl)-3,4-dihydronaphthalen-1(2H)-one | 25.3 mmol, 6.0 g | NC1=CC=C(C=C1)C1CCC(C2=CC=CC=C12)=O | C16H15NO
reactant | DMF-DMA | 60 mls | CN(C)C(OC)OC | C5H13NO2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (Z)-N′-(4-((E)-3-((dimethylamino)methylene)-4-oxo-1,2,3,4-tetrahydronaphthalen-1-yl)phenyl)-N,N-dimethylformimidamide | 8.6 g, 98% | CN(C)\C=C\1/CC(C2=CC=CC=C2C1=O)C1=CC=C(C=C1)\N=C/N(C)C | C22H25N3O
